US08372927B2
Preparation 3: Preparation of 2-(2,6-diisopropylphenylamino)cyclohex-2-enone
A 250-mL three-necked round-bottomed flask equipped with a condenser, gas inlet and septas is placed under N2 atmosphere. The flask is charged with 2-(morpholin-4-yl)-2-cyclohexen-1-one (7.0046 g, 38.65 mmol; Preparation 2), toluene (74.0 mL) and 2,6-diisopropylaniline (6.8521 g, 38.65 mmol). To the yellow solution is added p-toluenesulfonic acid monohydrate (7.3520 g, 38.65 mmol; p-TsOH.H2O). The reaction mixture became very thick with a lot of precipitate. The mixture is heated to 80° C. (oil bath temperature) and allowed to stir. Another 5.0 mL of toluene are added to facilitate stirring. The mixture is stirred for 2 hours. Reaction mixture is allowed to reach room temperature. The mixture is filtered. The filtrate is concentrated under high vacuum to afford 10.09 g of a yellow solid. The solid is dissolved in hot hexanes (about 30 mL) and filtered. The solution is allowed to cool to room temperature, seeded and place on the freezer. The solution is filtered while most of the solid is left behind on the flask. The flask is placed on an ice bath. The solid is rinsed with two about 6 mL portions of cold hexanes. The yellow solid is allowed to dry, transfer to a vial and left to dry overnight under vacuum (first crop: 4.0550 g). Mother liquor is concentrated and recrystallization is repeated two more times. The second crop is left in the freezer for 5 hours (second crop: 1.0785 g) and third crop is left overnight (third crop: 0.6919 g). The combined yield of title compound of Preparation 3 is 5.8254 g (55.54%).

reactant | 2-(morpholin-4-yl)-2-cyclohexen-1-one | 38.65 mmol, 7.0046 g | N1(CCOCC1)C=1C(CCCC1)=O | C10H15NO2
reactant | 2,6-diisopropylaniline | 38.65 mmol, 6.8521 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | p-toluenesulfonic acid monohydrate | 38.65 mmol, 7.3520 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 74.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-diisopropylphenylamino)cyclohex-2-enone | 10.09 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC=1C(CCCC1)=O | C18H25NO
